US03959488
A mixture of 3 g. (0.0156 mole) of 2-chloro-6-ethylaniline hydrochloride and 1.35 g. (0.016 mole) of cyanoguanidine in 25 ml of m-cresol is heated on a steam bath for 1 hour. The reaction mixture is then cooled and 250 ml of ether is added. The preciptate is filtered off and dissolved in 100 ml of warm water, charcoaled and filtered and cooled in an ice bath. 10% sodium hydroxide solution is then added to make the mixture strongly basic. The mixture is then filtered and washed with water. This is then dissolved in methanol, the pH is adjusted to 7 with methanolic hydrochloric acid and the mixture evaporated to dryness, triturated with ether and filtered to obtain 1-(2-chloro-6-ethylphenyl)biguanide hydrochloride (m.p. 209°-210°C).

reactant | 2-chloro-6-ethylaniline hydrochloride | 0.0156 mole | Cl.ClC1=C(N)C(=CC=C1)CC
reactant | cyanoguanidine | 0.016 mole | C(#N)NC(=N)N | C2H4N4
reactant | ether | 250 ml | CCOCC | C4H10O
solvent | m-cresol | 25 ml | C1=C(C=CC=C1O)C | C7H8O
product | 1-(2-chloro-6-ethylphenyl)biguanide hydrochloride | Cl.ClC1=C(C(=CC=C1)CC)NC(=N)NC(=N)N | InChI=1S/C10H14ClN5.ClH/c1-2-6-4-3-5-7(11)8(6)15-10(14)16-9(12)13;/h3-5H,2H2,1H3,(H6,12,13,14,15,16);1H
